Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: Coronary angiogram s/p DES to LCx

 
History of Present Illness:
___ is a ___ year old pre school teacher with a 
history of prior tobacco use who presents with a 3 day history 
of intermittent chest pains found to have NSTEMI.  

Patient was in her usual state of health until early ___ 
morning when she was awoken with what she thought was a panic 
attack, symptoms included burning in chest and jaw, numb arms, 
heavy breathing, all made worse with laying flat. Her symptoms 
improved with "tapping", a technique she uses to self-treat 
various anxiety and pain symptoms, so she went back to sleep not 
thinking much of it.  Her symptoms continues on and off at work 
the following day and then into the weekend until on ___ she 
went to an urgent care who referred her into the ED. 

 
Past Medical History:
PAST MEDICAL HISTORY  
-Lupus (though not treated, no lab evidence, diagnosed at 
___
a long time ago)  
-Spinal stenosis 
-Osteoarthritis 
-Dyslipidemia  
-Fibromyalgia
-Endometriosis
-Lyme disease
-Shingles
-Dysfunctional uterine bleeding

PAST SURGICAL HISTORY 
-Urethral sling procedure 
 
Social History:
___
Family History:
-Father with history of MI (___) 
-Distant relatives with ___
 
Physical Exam:
Physical Exam on Discharge: 
============================
VS: T 98.5F, HR 72, RR 18, O2 sat 96% on RA, BP 117/72
Gen: sitting up in bed, no acute distress
Neuro: A&O x3, steady on feet, grossly intact
Neck: JVP not visible at 90 degrees 
Chest: lungs CTAB, non-labored at rest
CV: RRR, S1S2, no MRG 
Abd: +BS, soft, NTND 
Ext: Warm, well perfused. no edema. +2 palpable peripheral 
pulses.
Access site: right wrist dsg CDI, no hematoma, no oozing. right 
radial pulse intact, +CSM. 
 
Pertinent Results:
Labs on Admit:
===============
___ 06:30PM WBC-13.1* RBC-4.44 Hgb-12.8 Hct-39.5 MCV-89 
MCH-28.8 MCHC-32.4 RDW-13.5 RDWSD-44.4 Plt ___
Neuts-63.7 ___ Monos-6.2 Eos-1.5 Baso-0.6 Im ___ 
AbsNeut-8.36* AbsLymp-3.60 AbsMono-0.81* AbsEos-0.19 
AbsBaso-0.08
___ PTT-126.5* ___
Glucose-96 UreaN-10 Creat-0.7 Na-140 K-4.4 Cl-106 HCO3-21* 
AnGap-13
Calcium-9.3 Phos-3.6 Mg-1.8

___ 06:30PM cTropnT-0.16*
___ 12:55AM cTropnT-0.21*
___ 06:15AM cTropnT-0.23*

___ 06:30PM %HbA1c-5.8 eAG-120
___ 06:30PM Cholest-218* Triglyc-108 HDL-49 CHOL/HD-4.4 
LDLcalc-147*

Diagnostic results:
==========================
___: CXR
There is no focal consolidation, pleural effusion or 
pneumothorax
identified.  The size of the cardiomediastinal silhouette is
within normal limits.  The bony thorax is grossly intact. 

___: CARDIAC CATH
LM: The left main coronary artery. There is a proximal 20% 
stenosis.
LAD: There is a 30% stenosis in the proximal LAD. The remaining 
portion of the mid and distal LAD had minor irregularities. The 
diagonal branch has a 60-80% stenosis diffusely but was a small 
vessel.
LCx: There is a proximal 90% stenosis. The remaing LCx and OMB 
were free of significant disease.
RCA: There is a mid 30% stenosis.

Interventional Details
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. A 5French EBU3.5 guide provided adequate 
support. Crossed with a 0.014 BMW wire into the distal OM. 
Predilated with a 2.5 mm balloon and then deployed a 2.5 mm x 15 
mm Onyx DES. Postdilated with a 2.5 mm balloon to 22 atms. Final 
angiography revealed normal flow, no dissection and 0% residual 
stenosis.
Complications: There were no clinically significant 
complications.
Findings
• Two vessel coronary artery disease.
• Successful PCI of the LCx/OMB

TTE (___):
CONCLUSION:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a normal cavity size. There is normal 
regional and global left ventricular systolic function. The 
visually estimated left ventricular ejection fraction is 55-60%. 
There is no resting left ventricular outflow tract gradient. 
Normal right ventricular cavity size with normal free wall 
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with mild bileaflet systolic prolapse. There 
is trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.
IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolic function. Mild bileaflet 
MVP without clinically-significant mitral regurgitation.

 
Brief Hospital Course:
In the ED, patient had stable vital signs, an unremarkable exam, 
an EKG with a presumed new LBBB, labs notable for a rising 
troponin 0.16-->0.21-->0.23, and was s/p aspirin load, heparin 
gtt, and metoprolol prior to being taken to the cath lab where 
she underwent stenting of the LCx with a Plavix load and 
tirofiban before transfer to the general medical floor.  

Hemodynamics remained stable overnight, without any chest pain, 
dyspnea, LH, and without any arrhythmias on telemetry. 
Transthoracic echocardiogram showed normal systolic function and 
without any wall motion abnormalities. 

She will continue on Aspirin 81mg daily, Plavix 75mg daily, 
Atorvastatin 80mg daily, and Metoprolol succinate 25mg daily for 
medical therapy. 

Ambulatory with physical therapy without any symptoms, with 
recommendation of outpatient cardiac rehab once medically 
cleared by cardiologist. Discharged home today, without 
services.

# Transitional:
( )- Follow up with PCP ___ ___ weeks
( )- PCP to follow LFTs on new statin
( )- Follow up with new Cardiologist in ___, Dr. ___, in 1 
month
( )- Outpatient cardiac rehab once medically cleared by Dr. 
___
( )- ___ Finance department will contact patient regarding 
near-future expiring health insurance to see if she qualifies 
for any further assitance

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Modafinil 200 mg PO DAILY 
2. Lidocaine 5% Patch 1 PTCH TD QAM 
3. Omeprazole 20 mg PO DAILY:PRN acid reflux 
4. Ranitidine 150 mg PO DAILY:PRN acid reflux 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Pantoprazole 20 mg PO Q24H PRN acid reflux  
6.  Lidocaine 5% Patch 1 PTCH TD QAM  
7.  Modafinil 200 mg PO DAILY  
8.  Ranitidine 150 mg PO DAILY:PRN acid reflux  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-ST elevation myocardial infarction (NSTEMI)
Coronary artery disease
Chest pain
Dyslipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

see discharge summary.

 
Discharge Instructions:
You presented to the hospital with symptoms of chest pain, and 
were found to have had a small heart attack. A cardiac 
catheterization was performed, in which a drug coated stent was 
placed to open a blockage in your left circumflex (LCx) coronary 
artery. Your echocardiogram showed that your heart pump function 
is normal and stable.  

Instructions regarding activity restrictions and care of the 
right wrist access site are included with your discharge 
information. 

 Please continue your current medications with the following 
changes:  
 - Star Aspirin 81mg daily, lifelong.  
 - Start Clopidigrel (Plavix) 75mg daily, you should take this 
for a minimum of one year and ONLY stop when told by a 
cardiologist specifically.  
 - Start Atorvastatin 80mg daily, to lower cholesterol and to 
prevent further heart disease. Your primary care doctor ___ 
follow your liver function tests are the procedure.
- Start Metoprolol succinate 25mg daily. This medication will 
optimize heart function after a heart attack. 
- Stop omeprazole due to potential drug interaction with Plavix. 
Start Pantoprazole 20mg once daily if needed. This prescription 
was sent to your local pharmacy. 

 It is very important to take all of your heart healthy 
medications. In particular, Aspirin and Clopidogrel (Plavix) 
keep the stents in the vessels of the heart open and help reduce 
your risk of having a future heart attack. If you stop these 
medications or miss ___ dose, you risk causing a blood clot 
forming in your heart stents, and you may die from a massive 
heart attack. Please do not stop taking either medication 
without taking to your heart doctor, even if another doctor 
tells you to stop the medications.  

 It is strongly recommended that you attend a cardiac rehab 
program in the near future. A referral form was provided to you 
that lists the locations of these programs. Please bring this 
with you to your follow up visit with your cardiologist, and 
they will inform you when it is safe to begin a program.  

 A member of the finance team at ___ will be calling you at 
home to further discuss your current insurance and if they can 
help with further needs once you are no longer covered. 

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. 
 
 It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

 Your ___ Cardiac Care Team
 
Followup Instructions:
___